US09034907B2
3-(4-methyl-1H-imidazol-1-yl)propan-1-amine (9)
Yield: 6.1 g (62.0%) of a mixture of 2-(3-(4-methyl-1H-imidazol-1-yl)propyl)isoindoline-1,3-dione and 2-(3-(5-methyl-1H-imidazol-1-yl)propyl)isoindoline-1,3-dione

reactant | 2-(3-(4-methyl-1H-imidazol-1-yl)propyl)isoindoline-1,3-dione | CC=1N=CN(C1)CCCN1C(C2=CC=CC=C2C1=O)=O | C15H15N3O2
reactant | 2-(3-(5-methyl-1H-imidazol-1-yl)propyl)isoindoline-1,3-dione | CC1=CN=CN1CCCN1C(C2=CC=CC=C2C1=O)=O | C15H15N3O2
product | 3-(4-methyl-1H-imidazol-1-yl)propan-1-amine | CC=1N=CN(C1)CCCN | C7H13N3
